US07045653B2
Ethyl (3S)-4-(benzyloxy)-3-[(tert-butoxycarbonyl)amino]butanoate
A solution of cesium carbonate (3.53 g, 10.9 mmol) in water (22 ml) was added to an ice-cooled solution of (3S)-4-(benzyloxy)-3-[(tert-butoxycarbonyl)amino]butanoic acid (3.36 g, 10.9 mmol) in methanol (70 ml) and water (7 ml), and the reaction stirred for 20 minutes. The mixture was concentrated under reduced pressure and azeotroped with N,N-dimethylformamide and dichloromethane. The residual oil was dissolved in N,N-dimethylformamide (70 ml), ethyl iodide (1.64 g, 10.9 mmol) added, and the reaction stirred at room temperature for 18 hours. The mixture was concentrated under reduced pressure, suspended in ethyl acetate (300 ml), washed with water (4×), brine, then dried (MgSO4) and evaporated under reduced pressure. The residual oil was purified by column chromatography on silica gel using hexane:ethyl acetate (85:15) to afford the title compound as a pale yellow oil, 2.86 g; 1H NMR (CDCl3, 400 MHz) δ: 1.26 (t, 3H), 1.45 (s, 9H), 2.65 (d, 2H), 3.58 (m, 2H), 4.17 (m, 3H), 4.55 (s, 2H), 5.20 (bs, 1H), 7.36 (m, 5H).

reactant | cesium carbonate | 10.9 mmol, 3.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3S)-4-(benzyloxy)-3-[(tert-butoxycarbonyl)amino]butanoic acid | 10.9 mmol, 3.36 g | C(C1=CC=CC=C1)OC[C@H](CC(=O)O)NC(=O)OC(C)(C)C | C16H23NO5
reactant | ethyl iodide | 10.9 mmol, 1.64 g | C(C)I | C2H5I
solvent | water | 22 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
solvent | water | 7 ml | O | H2O
product | Ethyl (3S)-4-(benzyloxy)-3-[(tert-butoxycarbonyl)amino]butanoate | C(C1=CC=CC=C1)OC[C@H](CC(=O)OCC)NC(=O)OC(C)(C)C | C18H27NO5
